* THM-01 trip-point transient: ThermalComparator (elec/src/modules.ato),
* TLV3201 comparator model, NTC modeled via its own Beta equation.
*
* CALIBRATED: false. No bench measurement exists for this circuit. Every
* component/thermistor value below is copied read-only from the committed
* atopile source (elec/src/modules.ato: ThermalComparator). Nothing here
* was invented to make the answer come out a particular way.
*
* Sourced values (read-only, elec/src/modules.ato: ThermalComparator):
*   - power_3v3 rail:            3.3 V
*   - NTC (ntc.mpn = "NTCALUG01A104GA", Vishay BCcomponents lug sensor,
*     lug-mount on heatsink per module comment): R25 = 100 kohm,
*     B25/85 = 4190 K (both from the module's own inline comment, which
*     cites the datasheet part number).
*   - r_ntc_fixed:                100000 ohm (top of NTC divider)
*   - r_ref_top / r_ref_bot:      150000 / 10000 ohm (reference divider)
*   - r_hyst:                     100000 ohm, from comp.OUT back to comp.INP
*     (positive-feedback hysteresis, present on THIS comparator, unlike
*     OCPComparator / OVPComparator which have none)
*
* NTC model: Beta (B-parameter) equation, not a datasheet Steinhart-Hart
* table (none is committed anywhere in this repo for this part number):
*     R(T) = R25 * exp( B * (1/T - 1/T25) ),  T in kelvin, T25 = 298.15 K
* implemented as a temperature-controlled nonlinear resistor to ground via
* an ngspice B-source, driven by an independent "temperature" voltage
* source V_TEMP (units: kelvin, ramped as a proxy for the physical
* thermistor body temperature -- there is no thermal-electrical coupling
* being simulated here, exactly as OCP-01 ramped current directly rather
* than modeling its true physical driver).
*
* Divider topology (as committed):
*   VCC -> r_ntc_fixed -> ntc_sense -> NTC(T) -> GND     (comp.INN = ntc_sense)
*   VCC -> r_ref_top -> comp.INP -> r_ref_bot -> GND     (reference, before
*                                                          trip: comp.OUT=0V
*                                                          via TLV3201_NGSPICE's
*                                                          push-pull output,
*                                                          so r_hyst effectively
*                                                          parallels r_ref_bot
*                                                          to ground pre-trip)
*   comp.INP -> r_hyst -> comp.OUT
*
* Hand-derived pre-trip reference (accounting for r_hyst || r_ref_bot,
* since comp.OUT sits at ~0V before the fault fires):
*   R_bot_eff = (10000 * 100000) / (10000 + 100000) = 9090.909 ohm
*   V_ref_pretrip = 3.3 * 9090.909 / (150000 + 9090.909) = 0.18857 V
* Trip: V(ntc_sense) = V_ref_pretrip
*   3.3 * R_ntc / (R_ntc + 100000) = 0.18857
*   R_ntc_trip = 0.18857 * 100000 / (3.3 - 0.18857) = 6055.9 ohm
* Convert to temperature via the Beta equation, R25=100k, B=4190K:
*   ln(R_ntc_trip / 100000) = -2.8043
*   1/T = 1/298.15 + (-2.8043/4190) = 2.6848e-3
*   T_trip = 372.55 K = 99.40 degC
* (The module's own inline comment ignores the r_hyst loading and computes
* a simpler ~96 degC via the unloaded 150k/10k divider -- this deck's more
* careful hand math and the fully-wired-as-committed SPICE simulation are
* both expected to land close to ~99 degC, not the module docstring's
* claimed 85 degC trip target.)
*
* Known model-fidelity limit (TLV3201_ngspice.lib): no timing model. This
* deck measures only the DC/quasi-static trip THRESHOLD, not response time.

.include ../../models/TLV3201_ngspice.lib

.param T_START=298.15
.param T_END=403.15
.param RAMP_TIME=300u

V_VCC VCC_3V3 0 DC 3.3
V_TEMP temp_k 0 PWL(0 {T_START} {RAMP_TIME} {T_END})

R_NTC_FIXED VCC_3V3 ntc_sense 100000
* NTC to ground: nonlinear resistor via Beta equation, R25=100k, B=4190K
B_NTC ntc_sense 0 I=V(ntc_sense,0)/(100000*exp(4190*((1/V(temp_k))-(1/298.15))))

R_REF_TOP VCC_3V3 vinp 150000
R_REF_BOT vinp 0 10000
R_HYST vinp comp_out 100000

X_COMP vinp ntc_sense VCC_3V3 0 comp_out TLV3201_NGSPICE

.control
set noaskquit
tran 100n 300u
meas tran t_trip WHEN v(comp_out)=1.65 RISE=1
meas tran v_ntc_sense_at_trip FIND v(ntc_sense) AT={t_trip}
meas tran temp_k_at_trip FIND v(temp_k) AT={t_trip}
print t_trip
print v_ntc_sense_at_trip
print temp_k_at_trip
quit
.endc

.end
